US07579368B2
a) N,N-Bis-(2-methoxy-ethyl)-2-piperazin-1-yl-acetamide
The title compound was prepared from 1-tert-butyloxycarbonyl-piperazine, chloroacetylchloride and N,N-bis-(2-methoxy-ethyl)amine in an analogous manner as described in example 21.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | N,N-bis-(2-methoxy-ethyl)amine | COCCNCCOC | C6H15NO2
product | N,N-Bis-(2-methoxy-ethyl)-2-piperazin-1-yl-acetamide | COCCN(C(CN1CCNCC1)=O)CCOC | C12H25N3O3
